US08044068B2
1-((3R,4R)-3-Amino-4-hydroxypyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone (1.0 g) was dissolved in chloroform (30 mL) and THF (10 mL), followed by addition of triethylamine (0.55 mL) and triphenylmethyl chloride (1.4 g), and the mixture was stirred at room temperature for 4 days. The reaction mixture was concentrated under reduced pressure, and the residue was purified by column chromatography (silica gel, hexane/ethyl acetate=4:1-2:1) to obtain 1-((3R,4R)-3-hydroxy-4-(tritylamino)pyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone (1.1 g).

reactant | 1-((3R,4R)-3-Amino-4-hydroxypyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone | 1.0 g | N[C@@H]1CN(C[C@H]1O)C(CC1=CC=C(C=C1)OC(F)(F)F)=O | C13H15F3N2O3
reactant | triethylamine | 0.55 mL | C(C)N(CC)CC | C6H15N
reactant | triphenylmethyl chloride | 1.4 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | chloroform | 30 mL | C(Cl)(Cl)Cl | CHCl3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-((3R,4R)-3-hydroxy-4-(tritylamino)pyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone | 1.1 g | O[C@@H]1CN(C[C@H]1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(CC1=CC=C(C=C1)OC(F)(F)F)=O | C32H29F3N2O3
